### PR TITLE
[Merged by Bors] - chore(SetTheory/Ordinal/NaturalOps): address porting notes

### PR DESCRIPTION
**Pull request by vihdzp**
We also private/deprecate some primed lemmas which are really only useful to prove associativity of multiplication.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/NaturalOps.lean [hunk 1]
```diff
@@ -619,50 +606,41 @@ theorem lt_nmul_iff₃ :
...
   · use a', ha, b', hb, c', hc; convert h using 1 <;> abel_nf
   · use c', hc, a', ha, b', hb; convert h using 1 <;> abel_nf
 
-theorem nmul_le_iff₃' :
-    a ⨳ (b ⨳ c) ≤ d ↔
-      ∀ a' < a, ∀ b' < b, ∀ c' < c,
-        a' ⨳ (b ⨳ c) ♯ a ⨳ (b' ⨳ c) ♯ a ⨳ (b ⨳ c') ♯ a' ⨳ (b' ⨳ c') <
-          d ♯ a' ⨳ (b' ⨳ c) ♯ a' ⨳ (b ⨳ c') ♯ a ⨳ (b' ⨳ c') := by
-  rw [← not_iff_not]; simp [lt_nmul_iff₃']
+private theorem nmul_le_iff₃' : a ⨳ (b ⨳ c) ≤ d ↔ ∀ a' < a, ∀ b' < b, ∀ c' < c,
```
Comment (alreadydone) [inline Mathlib/SetTheory/Ordinal/NaturalOps.lean:627]: You can use this to prove `lt_nmul_iff₃'`, if only to not increase lines of code / duplication.

**Review by alreadydone — APPROVED** [review]
Thanks!

**Comment by alreadydone** [comment]
maintainer delegate

File: Mathlib/SetTheory/Ordinal/NaturalOps.lean [hunk 2]
```diff
@@ -497,17 +496,11 @@ theorem zero_nmul (a) : 0 ⨳ a = 0 := by rw [nmul_comm, nmul_zero]
...
-  -- is slightly different.
-  simp only [Set.mem_setOf_eq, Set.mem_Ici]
-  refine ⟨fun H => le_of_forall_lt fun c hc => ?_, fun ha c hc => ?_⟩
-  -- Porting note: had to add arguments to `nmul_one` in the next two lines
-  -- for the termination checker.
-  · simpa only [nmul_one c] using H c hc
-  · simpa only [nmul_one c] using hc.trans_le ha
+  refine ⟨fun H ↦ le_of_forall_lt (a := a) fun c hc ↦ ?_, fun ha c hc ↦ ?_⟩
+  · simpa [nmul_one c] using H c hc
+  · simpa [nmul_one c] using hc.trans_le ha
```
Comment (j-loreaux) [inline Mathlib/SetTheory/Ordinal/NaturalOps.lean:503]: We have just `nmul_one` here? Otherwise I think the porting note still applies.
```suggestion
  · simpa [nmul_one c] using H c hc
  · simpa [nmul_one c] using hc.trans_le ha
```

**Review by j-loreaux — COMMENTED** [review]
bors d+
